US08084448B2
5-(2-Hydroxy-4-{2-[2-(4-methylpiperidin-1-yl)-2-oxo-ethyl]-benzyl}-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from {2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid and 4-methylpiperidine analogous to Example 314, steps B and C. (M−1)−=456. HPLC retention time=1.07 min (Method A).

reactant | {2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=CC=C2)CC(=O)O)C=CC1N1S(NC(C1)=O)(=O)=O | C24H22N2O6S
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
product | 5-(2-Hydroxy-4-{2-[2-(4-methylpiperidin-1-yl)-2-oxo-ethyl]-benzyl}-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC1=C(C=CC=C1)CC(=O)N1CCC(CC1)C)N1CC(NS1(=O)=O)=O | C23H27N3O5S
